US06153768
Synthesis of 7-hydroxy-3-(4-hydroxyphenyl)-4-[3-(5-(4,4,5,5,5-pentafluoropentylthio)pentyloxy)phenyl]-2,3-dihydro-4H-benzopyran
7-Methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-4-[3-(5-(4,4,5,5,5-pentafluoropentylthio)pentyloxy)phenyl]-2,3-dihydro-4H-benzopyran (290 mg, 0.4 mmol) and pyridinium p-toluenesulfonate (1.05 g, 4 mmol) were dissolved in methanol (6 ml) and then refluxed for 8 hours. The reaction mixture was cooled to room temperature and then water was added thereto. The reaction solution was extracted with ethyl acetate and the organic layer was dried over anhydrous magnesium sulfate, filtered and then concentrated under reduced pressure to remove the organic solvent. The concentrate was separated by column chromatography (n-hexane:ethyl acetate=1:1) to obtain 177mg (yield: 74%) of the title compound as a colorless oil.

reactant | 7-Methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-4-[3-(5-(4,4,5,5,5-pentafluoropentylthio)pentyloxy)phenyl]-2,3-dihydro-4H-benzopyran | 0.4 mmol, 290 mg | COCOC1=CC2=C(C(C(CO2)C2=CC=C(C=C2)OCOC)C2=CC(=CC=C2)OCCCCCSCCCC(C(F)(F)F)(F)F)C=C1 | C35H41F5O6S
reactant | pyridinium p-toluenesulfonate | 4 mmol, 1.05 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | water | O | H2O
solvent | methanol | 6 ml | CO | CH4O
product | 7-hydroxy-3-(4-hydroxyphenyl)-4-[3-(5-(4,4,5,5,5-pentafluoropentylthio)pentyloxy)phenyl]-2,3-dihydro-4H-benzopyran | 177mg, yield: 74% | OC1=CC2=C(C(C(CO2)C2=CC=C(C=C2)O)C2=CC(=CC=C2)OCCCCCSCCCC(C(F)(F)F)(F)F)C=C1 | C31H33F5O4S
